US05420275
8-Amino-7-phenyl-5-(p-tolylsulfonyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-042)
To 0.251 g of 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(p-tolylsulfonyl)pyridine were added 2 ml of hydrazine monohydrate and 2 ml of ethanol, and the mixture was stirred at 90° C. for 2 hours. After ethanol was added, the mixture was cooled. The resulting precipitate was collected by filtration and washed with ethanol. The thus obtained precipitate was suspended in 30 ml of water, and 2 ml of acetic acid was added thereto. After the mixture was heated, it was cooled. The resulting precipitate was collected by filtration, washed with water and dried to give 0.15 g of the title compound.

reactant | 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(p-tolylsulfonyl)pyridine | 0.251 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C24H24N2O6S
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 8-Amino-7-phenyl-5-(p-tolylsulfonyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione | 0.15 g | NC1=C(N=C(C=2C(NNC(C21)=O)=O)S(=O)(=O)C2=CC=C(C=C2)C)C2=CC=CC=C2 | C20H16N4O4S
